US08455496B2
Preparation of SM-2 5-bromo-N,N-dimethylpyrimidine-2-carboxamide (SM-2)
The 5-Bromo-pyrimidine-2-carbonyl chloride (55 g, 250 mmol) was dissolved in tetrahydrofuran (828 ml) and dimethyl-amine (2M solution in tetrahydrofuran) (373 ml, 745 mmol) was added portionwise at room temperature. The reaction was stirred at room temperature under nitrogen for 16 hours, after which time, LCMS indicated completion. The mixture was diluted with ethyl acetate (500 ml) and washed with H2O (500 ml). The water layer was further extracted with CH2Cl2 (5×500 ml), all organics combined, and dried over magnesium sulfate. The filtrate was concentrated in vacuo and then suspended in methyl-t-butylether (650 ml). The solution was then heated to reflux. The hot solution was allowed to cool overnight to afford pink crystals. The crystals were filtered and washed with cold methyl-t-butylether (100 ml) the solid was dried in a vacuum oven at 55° C. for 12 hours to afford the title compound 5-bromo-N,N-dimethylpyrimidine-2-carboxamide (SM-2: 44 g, 77%) as a pink solid.

reactant | 5-Bromo-pyrimidine-2-carbonyl chloride | 250 mmol, 55 g | BrC=1C=NC(=NC1)C(=O)Cl | C5H2BrClN2O
reactant | dimethyl-amine | 745 mmol, 2M, 373 ml | CNC | C2H7N
solvent | tetrahydrofuran | 828 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 5-bromo-N,N-dimethylpyrimidine-2-carboxamide | 44 g, 77% | BrC=1C=NC(=NC1)C(=O)N(C)C | C7H8BrN3O
